US05663336
A solution of 4.8 g (12 mmol) 4,5-Bis(trimethylsilyloxy)cyclohexa-1,4-diene 1,2-dicarboxylic acid dimethyl ester (Example 1 a), 2.6 g (24 mmol) p-anisidine and 2.2 ml (24 mmol) aniline in 48 ml of glacial acetic acid is boiled under reflux for 2 hours. The reaction mixture is cooled, the solvent is evaporated and the dark-brown residue is dissolved in ethyl acetate and the solution is washed in succession with 40 ml of 1N HCl 100 ml of saturated NaHCO3 and twice with water, dried with magnesium sulfate and concentrated by evaporation. The evaporation residue is chromatographed on silica gel with ethyl acetate/hexane 1:3 and the product fractions are concentrated by evaporation. This way, in the first product fractions 4,5-bis-(4-methoxyanilino)-phthalic acid dimethyl ester is obtained in the form of a yellow foam: FAB-MS: 437 [M+ +H]. The evaporation residue of the product fractions following thereafter is recrystallized, and 4-anilino-5-(4-methoxy-anilino)-phthalic acid dimethyl ester is obtained in the form of yellow crystals, m.p. 122°-4° C., FAB-MS: 407 [M+ +H].

reactant | 4,5-Bis(trimethylsilyloxy)cyclohexa-1,4-diene 1,2-dicarboxylic acid dimethyl ester | 12 mmol, 4.8 g | COC(=O)C1=C(CC(=C(C1)O[Si](C)(C)C)O[Si](C)(C)C)C(=O)OC | C16H28O6Si2
reactant | p-anisidine | 24 mmol, 2.6 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | aniline | 24 mmol, 2.2 ml | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 48 ml | C(C)(=O)O | C2H4O2
product | 4,5-bis-(4-methoxyanilino)-phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=C(C=C1)OC)NC1=CC=C(C=C1)OC)=O | C24H24N2O6
